US04990614
Condensation of 3-(2,4-dibenzyloxyphenyl) propionic acid (961 mg) and 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-methylpiperazine (1.0 g) was carried out in the same manner as in Example 12 (i) to obtain colorless crystalline 1-[3-(2,4-dibenzyloxyphenyl) propionyl-L-asparaginyl]-4-methylpiperazine (1.39 mg). Melting point: 121°-123° C.

reactant | 3-(2,4-dibenzyloxyphenyl) propionic acid | 961 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CCC(=O)O | C23H22O4
reactant | 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-methylpiperazine | 1.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)N1CCN(CC1)C | C14H26N4O4
product | 1-[3-(2,4-dibenzyloxyphenyl) propionyl-L-asparaginyl]-4-methylpiperazine | 1.39 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CCC(=O)N[C@@H](CC(N)=O)C(=O)N1CCN(CC1)C | C32H38N4O5
